US04439619
A solution of ethyl 2-carbamoyl-2-difluoromethyl-4-pentenoate prepared as in Step B (2.3 g) and iodo-benzene ditrifluoroacetate (3.5 g) in acetonitrile (14 mL) and water (14 mL) is stirred at 80° C. for 16 hours. Water (20 mL) is added and the mixture is extracted with ether (3×20 mL). The aqueous phase is concentrated and the residue suspended in saturated aqueous sodium bicarbonate (10 mL). The suspension is extracted with diethyl ether (3×20 mL). The organic layers are combined, washed with brine, dried over magnesium sulfate and concentrated in vacuo to give ethyl 2-amino-2-difluoromethyl-4-pentenoate (0.6 g) as an oil.

reactant | ethyl 2-carbamoyl-2-difluoromethyl-4-pentenoate | C(N)(=O)C(C(=O)OCC)(CC=C)C(F)F | C9H13F2NO3
reactant | acetonitrile | 14 mL | C(C)#N | C2H3N
solvent | water | 14 mL | O | H2O
solvent | Water | 20 mL | O | H2O
product | ethyl 2-amino-2-difluoromethyl-4-pentenoate | 0.6 g | NC(C(=O)OCC)(CC=C)C(F)F | C8H13F2NO2
